US04686220
2-Chloro-3-[methyl[2-[methyl(phenylmethyl)amino]ethyl]amino]-1,4-naphthalenedione, hydrochloride
A 4.5 g portion of methyl 2-[methyl(phenylmethyl)amino]ethylamine was added to a stirred slurry of 5.6 g of 2,3-dichloro-1,4-naphthoquinone in 150 ml of absolute ethanol. Stirring was continued for 16 hours, then the mixture was heated at reflux for one hour and filtered while hot. The mixture was then cooled at -10° C. and filtered. This filtrate was diluted with 100 ml of ether and cooled at -10° C. The resulting precipitate was collected, washed with ether and dried in vacuo at 100° C., giving 3.5 g of the desired product as orange crystals, mp 188°-190° C. (dec.).

reactant | methyl 2-[methyl(phenylmethyl)amino]ethylamine | CNCCN(CC1=CC=CC=C1)C | C11H18N2
reactant | 2,3-dichloro-1,4-naphthoquinone | 5.6 g | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Chloro-3-[methyl[2-[methyl(phenylmethyl)amino]ethyl]amino]-1,4-naphthalenedione, hydrochloride | 3.5 g | Cl.ClC=1C(C2=CC=CC=C2C(C1N(CCN(CC1=CC=CC=C1)C)C)=O)=O | InChI=1S/C21H21ClN2O2.ClH/c1-23(14-15-8-4-3-5-9-15)12-13-24(2)19-18(22)20(25)16-10-6-7-11-17(16)21(19)26;/h3-11H,12-14H2,1-2H3;1H
